US07432284B2
A mixture of 2-butyl-6-methoxy-2-(3-oxobutyl)-3,4-dihydro-1(2H)-naphthalenone (91 mg, 0.3 mmol), pyrrolidine (0.025 mL, 0.3 mol), acetic acid (0.017 mL, 0.3 mmol), and toluene (0.5 mL) was stirred and heated in an oil bath at 100° C. for 3 hours. After standing at room temperature overnight, the mixture was partitioned between EtOAc (20 mL) and water (20 mL) containing 2N HCl (2 mL). The organic phase was washed with 5% NaHCO3 (10 mL) and brine (10 mL), dried over MgSO4, filtered, and concentrated under vacuum. The residue was purified by preparative layer chromatography on a 0.1×20×20 cm silica gel GF plate (Analtech, Newark, Del.), developing with 5% EtOAc in CH2Cl2. The UV visible product band was eluted with EtOAc and the eluant was evaporated under vacuum to provide 10a-butyl-7-methoxy-1,9,10,10a-tetrahydro-3(2H)-phenanthrenone as a clear oil.

reactant | 2-butyl-6-methoxy-2-(3-oxobutyl)-3,4-dihydro-1(2H)-naphthalenone | 0.3 mmol, 91 mg | C(CCC)C1(C(C2=CC=C(C=C2CC1)OC)=O)CCC(C)=O | C19H26O3
reactant | pyrrolidine | 0.3 mol, 0.025 mL | N1CCCC1 | C4H9N
reactant | acetic acid | 0.3 mmol, 0.017 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
product | 10a-butyl-7-methoxy-1,9,10,10a-tetrahydro-3(2H)-phenanthrenone | C(CCC)C12CCC3=CC(=CC=C3C2=CC(CC1)=O)OC | C19H24O2
